US04826990
6-[(3-Nitrophenoxy)methyl]-2-phenylpyridine
To a stirred solution of 4.2 g (0.03 mol) of 3-nitrophenol in 150 ml of acetone is added 7.5 (0.05 mol) of 2-chloromethyl-6-phenylpyridine hydrochloride3, 10 g (0.03 mol) of cesium carbonate and 0.5 g of potassium iodide, and the slurry is heated to reflux for 20 hours. The hot mixture is filtered, and the filtrate is concentrated in vacuo to obtain an oil (9.3 g). The crude product is recrystallized from ethyl acetate/pentane to give a first crop (4.5 g, 49%) of crystals, m.p. 77°-80° C. and a second crop (1.7 g, 19%) of crystals, m.p. 77°-81° C.

reactant | 3-nitrophenol | 0.03 mol, 4.2 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 2-chloromethyl-6-phenylpyridine | ClCC1=NC(=CC=C1)C1=CC=CC=C1 | C12H10ClN
reactant | cesium carbonate | 0.03 mol, 10 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
catalyst | potassium iodide | 0.5 g | [I-].[K+]
product | 6-[(3-Nitrophenoxy)methyl]-2-phenylpyridine | 9.3 g | [N+](=O)([O-])C=1C=C(OCC2=CC=CC(=N2)C2=CC=CC=C2)C=CC1 | C18H14N2O3
